US05212287
Preparation of L-Aspartyl-L-Seryl-L-Aspartyl-L-Prolyl-L-Arginine
N-carbobenzoxy-O-benzyl-L-aspartyl-O-benzyl-L-seryl-L-aspartyl-L-prolyl-L-arginine (2.7 Kg) is dissolved in 19 L of aqueous 2.3M ammonium acetate. Palladium on charcoal (5-20%) is added. The mixture is purged with nitrogen and then contacted with hydrogen flowing at a rate of 50-100 L/hr for three to sixteen hours at 15°-25° C. and from atmospheric pressure to 50 psig.

reactant | N-carbobenzoxy-O-benzyl-L-aspartyl-O-benzyl-L-seryl-L-aspartyl-L-prolyl-L-arginine | 2.7 Kg | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC(O)=O)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCC1 | C44H54N8O13
solvent | ammonium acetate | 2.3M | C(C)(=O)[O-].[NH4+]
catalyst | Palladium on charcoal | [Pd] | Pd
product | L-Aspartyl-L-Seryl-L-Aspartyl-L-Prolyl-L-Arginine | N[C@@H](CC(O)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(O)=O)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCC1 | C22H36N8O11
